US05686445
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-2-methoxy-4-chlorobenzamide
As described for Example 9, a mixture of 0.377 g (1 mmol) of 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine, 0.295 g of 2-methoxy-4-chlorobenzoyl chloride, and 0.15 g of triethylamine in 10 ml of dichloromethane is stirred at room temperature for 3 hours. An additional 0.148 g of 2-methoxy-4-chlorobenzoyl chloride and 75 mg of triethylamine is added and the mixture stirred overnight. The solution is worked-up as for Example 9 to give 0.38 g of product (crystallized from dichloromethane-hexane) m.p. 237°-239° C.

reactant | 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 1 mmol, 0.377 g | NC1=CC=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C21H18N2O
reactant | 2-methoxy-4-chlorobenzoyl chloride | 0.295 g | COC1=C(C(=O)Cl)C=CC(=C1)Cl | C8H6Cl2O2
reactant | triethylamine | 0.15 g | C(C)N(CC)CC | C6H15N
reactant | 2-methoxy-4-chlorobenzoyl chloride | 0.148 g | COC1=C(C(=O)Cl)C=CC(=C1)Cl | C8H6Cl2O2
reactant | triethylamine | 75 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-2-methoxy-4-chlorobenzamide | 0.38 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=C(C=C3)Cl)OC)=O | C29H23ClN2O3
